US07919506B2
(3,5-Bis-trifluoromethyl-benzyl)-{2-[ethoxy-(tetrahydro-pyran-4-yl)-methyl]-5-trifluoromethyl-benzyl}-(2-methyl-2H-tetrazol-5-yl)-amine
To a solution of (2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-4-(trifluoromethyl)phenyl)(tetrahydro-2H-pyran-4-yl)methanol (20.4 mg, 0.034 mmo) in THF (0.15 mL) at 0° C. was added sodium hydride (60% dispersion in mineral oil, 4.1 mg, 0.10 mmol). The mixture was stirred at room temperature for 30 minutes, recooled to 0° C. and DMF (5 drops) was added followed by iodoethane (8 μL, 0.10 mmol). The mixture was stirred at room temperature overnight. Solvent was removed in vacuo. The residue was purified by chromatography over 12+S Biotage silica column (eluted with 0-30% ethyl acetate in hexanes) to afford the title compound (11.5 mg, 54%). 1H NMR (400 MHz, CDCl3) δ ppm 1.0 (m, 1H) 1.1 (t, J=7.1 Hz, 3H) 1.4(m, 2H) 1.7(m, 1H) 1.8(d, J=13.3 Hz, 1H) 3.2 (m, 4H) 3.9 (dd, J=11.6, 3.3 Hz, 1H) 4.0 (dd, J=11.4, 3.9 Hz, 1H) 4.2 (s, 3H) 4.2 (d, J=7.1 Hz, 1H) 4.7 (d, J=13.3 Hz, 1H) 4.7 (s, 2H) 4.9 (d, J=15.8 Hz, 1H) 7.3 (s, 1H) 7.6 (m, 2H) 7.6 (s, 2H) 7.8 (s, 1H). MS (ES+) Calc: 625.2, Found: 626.4 (M+1) According to the procedure described in example 33 and using the appropriate secondary alcohol and alkylating reagent, examples 34-40 were prepared.

reactant | (2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-4-(trifluoromethyl)phenyl)(tetrahydro-2H-pyran-4-yl)methanol | 20.4 mg | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C(O)C2CCOCC2)C=C(C1)C(F)(F)F)(F)F | C25H24F9N5O2
reactant | sodium hydride | 0.10 mmol, 4.1 mg | [H-].[Na+]
reactant | iodoethane | 0.10 mmol, 8 μL | ICC | C2H5I
solvent | THF | 0.15 mL | C1CCOC1 | C4H8O
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
product | (3,5-Bis-trifluoromethyl-benzyl)-{2-[ethoxy-(tetrahydro-pyran-4-yl)-methyl]-5-trifluoromethyl-benzyl}-(2-methyl-2H-tetrazol-5-yl)-amine | 11.5 mg, 54% | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C(C2CCOCC2)OCC)C=C(C1)C(F)(F)F)(F)F | C27H28F9N5O2
